US06521643B1
To a suspension of 4-(4-methylpyridin-2-yl)-2-nitrobenzaldehyde (242 mg), ethyleneglycol (1.2 ml) and magnesium sulfate (1.0 g) in toluene (5 ml) was added p-toluenesulfonic acid monohydrate (209 mg), and the resultant suspension was refluxed for 5 hours. After cooling, the mixture was poured into 0.1N aqueous sodium hydroxide and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 25 g, 25% ethyl acetate in n-hexane) to give 2-(4-(4-methylpyridin-2-yl)-2-nitrophenyl)-1,3-dioxolane (215 mg).

reactant | 4-(4-methylpyridin-2-yl)-2-nitrobenzaldehyde | 242 mg | CC1=CC(=NC=C1)C1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C13H10N2O3
reactant | magnesium sulfate | 1.0 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | p-toluenesulfonic acid monohydrate | 209 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyleneglycol | 1.2 ml | C(CO)O | C2H6O2
product | 2-(4-(4-methylpyridin-2-yl)-2-nitrophenyl)-1,3-dioxolane | 215 mg | CC1=CC(=NC=C1)C1=CC(=C(C=C1)C1OCCO1)[N+](=O)[O-] | C15H14N2O4
